US06191150B1
(3R,4S)-3-(2-Methyl-1-propyl)-4-methyl-1-(2-tetrahydropyranyloxy)azetidin-2-one (3.5 g, 14.5 mmol) in 30 mL of ethylene glycol dimethyl ether is treated with 20 mL of 2.5 M aqueous sodium hydroxide solution. The mixture is stirred at 25° C. for 16 h and is then brought to pH 3 by addition of saturated aqueous sodium bisulfate solution. The mixture is extracted with ether and the organics are dried over magnesium sulfate and concentrated under reduced pressure to give 3.2 g (84%) of (2R,3S)-3-(2-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)butanoic acid as an oil.

reactant | (3R,4S)-3-(2-Methyl-1-propyl)-4-methyl-1-(2-tetrahydropyranyloxy)azetidin-2-one | 14.5 mmol, 3.5 g | CC(C[C@H]1C(N([C@H]1C)OC1OCCCC1)=O)C | C13H23NO3
reactant | sodium hydroxide | 2.5 M, 20 mL | [OH-].[Na+]
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
solvent | ethylene glycol dimethyl ether | 30 mL | COCCOC | C4H10O2
product | (2R,3S)-3-(2-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)butanoic acid | 3.2 g, 84% | O1C(CCCC1)ON[C@H]([C@H](C(=O)O)CC(C)C)C | C13H25NO4
